US07399759B2
8-Methyl-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of 3-methyl-2-mercaptobenzoic acid (2.40 g, 14.3 mmol), 2-cyanopyridine (1.20 g, 11.9 mmol) and pyridine (50.0 ml) was refluxed for 9 hrs as described in Example 9. After cooling, the precipitated crystals were collected by filtration and recrystallized from hexane-tetrahydrofuran to give the titled compound (1.60 g, 52%).

reactant | 3-methyl-2-mercaptobenzoic acid | 14.3 mmol, 2.40 g | CC=1C(=C(C(=O)O)C=CC1)S | C8H8O2S
reactant | 2-cyanopyridine | 11.9 mmol, 1.20 g | C(#N)C1=NC=CC=C1 | C6H4N2
solvent | pyridine | 50.0 ml | N1=CC=CC=C1 | C5H5N
product | 8-Methyl-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one | 1.60 g, 52% | CC1=CC=CC=2C(N=C(SC21)C2=NC=CC=C2)=O | C14H10N2OS
